US06668527B2
E. 2-{5-[2-(Benzhydrylidene-amino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-carboxylic acid tert-butyl ester
2-(5-Bromomethyl-isoxazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester (1.0 g, 3 mmol) and N-(diphenylmethylene)glycine glycine ethyl ester (1.0 g, 3.74 mmol) were dissolved in toluene (10 mL). Aqueous potassium hydroxide, 18M, (0.25 mL, 4.5 mmol) and tetrabutylammonium bromide (97 mg, 0.30 mmol) were added. After the reaction was stirred at room temperature for 1 hour, 1N hydrochloric acid was added (4.5 mL). The organic phase was extracted with 1N hydrochloric acid, saturated sodium bicarbonate, and brine. The organic portion was dried over magnesium sulfate and the solvent removed in vacuo. The residue was chromatographed with 15% ethylacetate in hexanes on a Biotage 40S column to give the title compound (700 mg, 45%). MS (CI) m/z 518.0 (M+1).

reactant | 2-(5-Bromomethyl-isoxazol-3-yl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 3 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CBr | C13H19BrN2O3
reactant | N-(diphenylmethylene)glycine glycine ethyl ester | 3.74 mmol, 1.0 g | C(C)OC(CN)=O.C1(=CC=CC=C1)C(=NCC(=O)O)C1=CC=CC=C1
reactant | potassium hydroxide | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.30 mmol, 97 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-{5-[2-(Benzhydrylidene-amino)-2-ethoxycarbonyl-ethyl]-isoxazol-3-yl}-pyrrolidine-carboxylic acid tert-butyl ester | 700 mg, 45% | C(C)(C)(C)OC(=O)N1C(CCC1)C1=NOC(=C1)CC(C(=O)OCC)N=C(C1=CC=CC=C1)C1=CC=CC=C1 | C30H35N3O5
